US05366665
Preparation of Octyl Lactate by Transesterification
A 500 mL one neck round bottom flask equipped with a distillation apparatus and nitrogen inlet/outlet was charged with 100.0 g (0.85 moles) of ethyl lactate, 220.49 g (1.69 moles) of octyl alcohol and 0.42 g of sulfuric acid. The reaction was refluxed for 8 hours and ethanol was collected as formed. The acid was neutralized by washing three times with 100 mL saturated sodium bicarbonate solution. The organic layer was collected and dried over magnesium sulfate. Excess octyl alcohol was removed by high vacuum distillation, and three fractional distillations led to 75.0 g (44% yield) of clear colorless oil. According to GC, the product is 95% pure.

reactant | ethyl lactate | 0.85 moles, 100.0 g | C(C(O)C)(=O)OCC | C5H10O3
reactant | octyl alcohol | 1.69 moles, 220.49 g | C(CCCCCCC)O | C8H18O
catalyst | sulfuric acid | 0.42 g | S(O)(O)(=O)=O | H2O4S
product | Octyl Lactate | 75.0 g, 44% yield | C(C(O)C)(=O)OCCCCCCCC | C11H22O3
